US09107916B2
C. methyl 2-chloro-4-ethylbenzoate
Charged methyl 2-chloro-4-ethenylbenzoate (437 mg, 2.23 mmol), BaSO4/Pd (100 mg, 5%) and ethyl acetate (9 mL) to a flask, the mixture was then purged with H2, and stirred at room temperature for 4 h. The reaction mixture was then filtered, concentrated to give 424 mg of the title compound (96%). 1H NMR (400 MHz, CDCl3): δ 1.24 (3H, t, J=7.6 Hz), 2.65 (2H, q, J=7.6 Hz), 3.91 (3H, s), 7.12 (1H, dd, J=1.2 Hz, 8.4 Hz), 7.28 (1H, d, J=1.6 Hz), 7.77 (1H, d, J=8.0 Hz).

reactant | methyl 2-chloro-4-ethenylbenzoate | 2.23 mmol, 437 mg | ClC1=C(C(=O)OC)C=CC(=C1)C=C | C10H9ClO2
catalyst | BaSO4 Pd | 100 mg | [O-]S(=O)(=O)[O-].[Ba+2].[Pd]
solvent | ethyl acetate | 9 mL | C(C)(=O)OCC | C4H8O2
product | methyl 2-chloro-4-ethylbenzoate | 424 mg, 96% | ClC1=C(C(=O)OC)C=CC(=C1)CC | C10H11ClO2
